US07842684B2
Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate
Methyl (4-{(E)-[(4-iodophenyl)imino]methyl}phenoxy)acetate (7.0 g, 17.7 mmol), was placed in a dry 250 ml 3-necked flask under inert atmosphere and dissolved in 100 ml dry DCM. Et3N (5.5 ml, 39.5 mmol) and 2-chloro-1-methylpyridinium iodide (4.2 g, 16.4 mmol) were added. {[(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}acetic acid (5.4 g, 15.7 mmol) was dissolved in 50 ml dry DCM and slowly added to the above solution over 7-8 h. The mixture was stirred over night and diluted with 50 ml DCM. HCl (1 M, 100 ml) was added followed by NaHCO3 (5%) until pH was 8-9 of the aqueous. The organic phase was washed with 0.3 M KHSO4, brine until neutral pH, dried with MgSO4 and concentrated. The solid was dissolved in EtOAc:heptane (4:1) and filtered on a short SiO2 column using a gradient from ¼ to 1/1 of EtOAc/heptane as eluent. Concentration yielded 10.65 g. The mixture was purified by preparative HPLC on a C8 column (500×50 mm) using a gradient from 20-100% MeCN in 0.1 M ammonium acetate as eluent. The product fraction was concentrated to yield 7.13 g of the trans diastereomeric mixture. M/z: 720.2 (M−1). The diastereomeric mixture was separated by HPLC on a Chiralpak IA column (4.6×250 mm) using heptane/THF (80/20) as mobile phase. The second eluting diastereomer was collected and the solution concentrated to yield the title compound. 1H-NMR (400 MHz, MeOD) δ: −0.13 (s, 3H), 0.02 (s, 3H), 0.85 (s, 9H), 3.00 (ddd, 2H), 3.81 (s, 3H), 4.02 (d, 1H), 4.76 (s, 2H), 4.84-4.90 (m, 1H), 4.94 (dd, 1H), 6.97-7.06 (m, 4H), 7.09 (d, 2H), 7.30-7.40 (m, 4H), 7.61 (d, 2H).

reactant | Methyl (4-{(E)-[(4-iodophenyl)imino]methyl}phenoxy)acetate | 17.7 mmol, 7.0 g | IC1=CC=C(C=C1)\N=C\C1=CC=C(OCC(=O)OC)C=C1 | C16H14INO3
reactant | Et3N | 39.5 mmol, 5.5 ml | CCN(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 16.4 mmol, 4.2 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | {[(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}acetic acid | 15.7 mmol, 5.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CSCC(=O)O)C1=CC=C(C=C1)F | C16H25FO3SSi
reactant | HCl | 1 M, 100 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate | 7.13 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)I)C1=CC=C(OCC(=O)OC)C=C1)C1=CC=C(C=C1)F | C32H37FINO5SSi
